US08293751B2
4-[4-(3-Isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-6-(6-methylsulfanyl-pyridin-3-ylamino)pyrimidine-5-carbonitrile
4-Chloro-6-(6-methylsulfanyl-pyridin-3-ylamino)-pyrimidine-5-carbonitrile (80.00 mg, 0.29 mmol) in DMF (2 ml) was mixture with Potassium Carbonate (79.62 mg, 0.58 mmol), added 4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidine hydrochloride (237.4 mg, 1.08 or 1.02 mmol) in DMF (1 ml) and left stirring at room temperature for 1 hour. Reaction was worked up with ethyl acetate, sodium bicarbonate, dried with magnesium sulfate, filtered and concentrate under high vacuum. Compound was recrystallized using hexane in ethyl acetate to afford Compound B136. 1H NMR 400 MHz DMSO δ (ppm): 9.48 (s, 1H), 8.55 (d, 1H), 8.35 (s, 1H), 8.19 (s, 1H), 7.77 (d, 1H), 7.26 (d, 1H), 4.52 (m, 2H), 3.48 (m, 1H), 3.37 (m, 2H), 3.32 (s, 3H), 3.04 (m, 1H), 2.14 (m, 2H), 1.75 (m, 2H), 1.33 (d, 6H).

reactant | 4-Chloro-6-(6-methylsulfanyl-pyridin-3-ylamino)-pyrimidine-5-carbonitrile | 0.29 mmol, 80.00 mg | ClC1=NC=NC(=C1C#N)NC=1C=NC(=CC1)SC | C11H8ClN5S
reactant | Potassium Carbonate | 0.58 mmol, 79.62 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidine hydrochloride | 1.02 mmol, 237.4 mg | Cl.C(C)(C)C1=NOC(=N1)C1CCNCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4-(3-Isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-6-(6-methylsulfanyl-pyridin-3-ylamino)pyrimidine-5-carbonitrile | C(C)(C)C1=NOC(=N1)C1CCN(CC1)C1=NC=NC(=C1C#N)NC=1C=NC(=CC1)SC | C21H24N8OS
